US07087599B2
A solution of (2SR,9aRS)-9a-butyl-2-hydroxy-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (73 mg, 0.22 mmol) in methanol (5 mL) was placed under a nitrogen atmosphere, treated with 2N aqueous HCl (0.33 mL, 0.66 mmol), and stirred with heating in an oil bath at 80° C. for 30 minutes. After cooling to room temperature, the reaction mixture was diluted with EtOAc, washed with 5% aqueous NaHCO3 and brine, dried over MgSO4, filtered, and concentrated under vacuum to an oil. The crude product was purified by PLC on a 0.1×20×20 cm silica gel GF plate, developing twice with 4:1 hexanes-EtOAc. The band at Rf 0.12-0.20 was eluted with EtOAc and the eluant evaporated under vacuum to a gum (50 mg). This material crystallized from benzene to afford (2SR,9aRS)-9a-butyl-2,7-dihydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as a white solid.

reactant | (2SR,9aRS)-9a-butyl-2-hydroxy-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.22 mmol, 73 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)O)=O)C)OCOC | C20H26O4
reactant | HCl | 0.66 mmol, 2N, 0.33 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2SR,9aRS)-9a-butyl-2,7-dihydroxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(C(C1)O)=O)C)O | C18H22O3
